US08957203B2
To a solution of NIS (3.31 g, 14.73 mmol) in CH3CN (25 mL) was added 6-methoxyisoquinolin-1-ol (2.58 g, 14.73 mmol). The resulting suspension was slowly warmed to reflux and maintained refluxing for 2 h. After concentration, the residue was taken into water. The solid was collected through filter paper washing with hot water to give a crude product 4-iodo-6-methoxyisoquinolin-1-ol (3.87 g, 87% yield) which was used in the next step with out further purification. MS: MS m/z 302(M++1). 1H NMR (400 MHz, CHLOROFORM-d) δ 16.12 (br. s., 1H), 12.86 (d, J=9.0 Hz, 1H), 12.34 (d, J=5.8 Hz, 1H), 11.89 (dd, J=8.8, 2.5 Hz, 1H), 11.76 (d, J=2.3 Hz, 1H), 8.70-8.62 (m, 3H).

reactant | NIS | 14.73 mmol, 3.31 g | C1CC(=O)N(C1=O)I | C4H4INO2
reactant | 6-methoxyisoquinolin-1-ol | 14.73 mmol, 2.58 g | COC=1C=C2C=CN=C(C2=CC1)O | C10H9NO2
solvent | CH3CN | 25 mL | CC#N | C2H3N
product | 4-iodo-6-methoxyisoquinolin-1-ol | 3.87 g, 87% yield | IC1=CN=C(C2=CC=C(C=C12)OC)O | C10H8INO2
